### PR TITLE
[Merged by Bors] - feat(NumberTheory): Rayleigh's theorem

### PR DESCRIPTION
**Pull request by int-y1**
---

This is a theorem from #6091

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by urkud** [comment]
We have [Real.IsConjugateExponent](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Real/ConjugateExponents.html#Real.IsConjugateExponent). IMHO, should be used here.

**Comment by tb65536** [comment]
Would it be nicer to first prove the generalization here (https://en.wikipedia.org/wiki/Beatty_sequence#Generalizations) involving floor and ceiling - 1? That way you don't have to bother with positivity and irrationality until the end.

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 1]
```diff
@@ -0,0 +1,176 @@
...
+
+* [Wikipedia, *Beatty sequence*](https://en.wikipedia.org/wiki/Beatty_sequence)
+
+## Tags
+
+beatty, sequence, rayleigh, irrational, floor
+-/
+
+/-- The Beatty sequence for real number `r` is defined to be `B_r := {⌊r⌋, ⌊2r⌋, ⌊3r⌋, ...}`. -/
+def beattySequence (r : ℝ) : Set ℤ :=
```
Comment (alexjbest) [inline Mathlib/NumberTheory/Rayleigh.lean:34]: I wonder if it might be better to define this as an actual infinite sequence indexed by integers (i.e. a function from integers to integers) rather than a set. That seems useful for other applications of this sequence at least

Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Done. I split the definition into `beattySequence` and `beattySet`.

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 2]
```diff
@@ -0,0 +1,246 @@
...
+    exact sub_nonneg.1 (Int.sub_floor_div_mul_nonneg (j + 1 : ℝ) hr₀)
+
+end Beatty
+
+/-- Generalization of Rayleigh's theorem on Beatty sequences. Let `r` be a real number greater
+than 1. Then every integer is in exactly one of `B_r` or `B'_(r / (r - 1))`. -/
+theorem rayleigh_int {r : ℝ} (hr : r > 1) :
+    ∀ {j : ℤ},
+      (j ∈ beattySet r ∧ j ∉ beattySet' r.conjugateExponent) ∨
+      (j ∉ beattySet r ∧ j ∈ beattySet' r.conjugateExponent) := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/Rayleigh.lean:172]: Can you instead phrase this in terms of https://leanprover-community.github.io/mathlib4_docs/Mathlib/Init/Set.html#Set.compl

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 3]
```diff
@@ -0,0 +1,246 @@
...
+variable {r : ℝ} (hr : r > 1) {j k : ℤ}
+
+theorem s_gt_1 : r.conjugateExponent > 1 := by
+  apply (lt_div_iff (sub_pos.2 hr)).2
+  rw [one_mul]
+  exact sub_one_lt r
+
+/-- Let `1 < r ∈ ℝ` and `s = r / (r - 1)`. Suppose there is an integer `j` such that `j ∈ B_r` and
+`j ∈ B'_s` (i.e. a collision). Then this leads to a contradiction. -/
+theorem no_collision : ¬∃ j, j ∈ beattySet r ∧ j ∈ beattySet' r.conjugateExponent := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/Rayleigh.lean:82]: Can you instead phrase this in terms of https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Disjoint.html#Disjoint

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 4]
```diff
@@ -0,0 +1,246 @@
...
+
+/-- Define another positive Beatty set for `r ∈ ℝ` to be `B⁺'_r := {⌈r⌉-1, ⌈2r⌉-1, ⌈3r⌉-1, ...}`. -/
+def beattySetPos' (r : ℝ) : Set ℤ :=
+  { beattySequence' r k | k > 0 }
+
+namespace Beatty
+
+variable {r : ℝ} (hr : r > 1) {j k : ℤ}
+
+theorem s_gt_1 : r.conjugateExponent > 1 := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/Rayleigh.lean:75]: This should be moved to `Mathlib.Data.Real.ConjugateExponents`

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 5]
```diff
@@ -0,0 +1,246 @@
...
+  · by_cases h₂ : j ∈ beattySet' r.conjugateExponent
+    · exact Or.inr ⟨h₁, h₂⟩
+    · have hs := Beatty.s_gt_1 hr
+      have ⟨k, h₁₁, h₁₂⟩ := (Beatty.hit_or_miss hr).resolve_left h₁
+      have ⟨m, h₂₁, h₂₂⟩ := (Beatty.hit_or_miss' hs).resolve_left h₂
+      exact (Beatty.no_anticollision hr ⟨j, k, m, h₁₁, h₁₂, h₂₁, h₂₂⟩).elim
+
+/-- A version of `rayleigh_int` that uses `Real.IsConjugateExponent r s` as a hypothesis. -/
+theorem rayleigh_int' {r s : ℝ} (hr : Real.IsConjugateExponent r s) :
+    ∀ {j : ℤ}, (j ∈ beattySet r ∧ j ∉ beattySet' s) ∨ (j ∉ beattySet r ∧ j ∈ beattySet' s) := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/Rayleigh.lean:189]: Can you instead phrase this in terms of https://leanprover-community.github.io/mathlib4_docs/Mathlib/Init/Set.html#Set.compl

File: Mathlib/NumberTheory/Rayleigh.lean (hunk 2 above)
Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Done. The statement is now `(beattySet r)ᶜ = beattySet' r.conjugateExponent`.

File: Mathlib/NumberTheory/Rayleigh.lean (hunk 4 above)
Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Done. I added `Real.one_lt_conjugateExponent` to this file.

File: Mathlib/NumberTheory/Rayleigh.lean (hunk 5 above)
Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Done. The statement is now `(beattySet r)ᶜ = beattySet' s`.

File: Mathlib/NumberTheory/Rayleigh.lean (hunk 3 above)
Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Done. The statement is now `Disjoint (beattySet r) (beattySet' r.conjugateExponent)`.

**Comment by tb65536** [comment]
Why not use `Real.IsConjugateExponent` all the way through? It seems to make things easier. For example:
```
variable {r s : ℝ}

theorem no_collision (h : r.IsConjugateExponent s) : Disjoint (beattySet r) (beattySet' s) := by
  rw [Set.disjoint_left]
  intro j ⟨k, h₁⟩ ⟨m, h₂⟩
  rw [beattySequence, Int.floor_eq_iff,
      ← mul_le_mul_right h.symm.pos, ← mul_lt_mul_right h.symm.pos, mul_assoc] at h₁
  rw [beattySequence', sub_eq_iff_eq_add, Int.ceil_eq_iff,
      Int.cast_add, Int.cast_one, add_sub_cancel,
      ← mul_lt_mul_right h.pos, ← mul_le_mul_right h.pos, mul_assoc, mul_comm s r] at h₂
  have h₃ := add_lt_add_of_lt_of_le h₂.1 h₁.1
  have h₄ := add_lt_add_of_le_of_lt h₂.2 h₁.2
  rw [← mul_add, ← add_mul, h.mul_eq_add, mul_lt_mul_right (add_pos h.pos h.symm.pos)] at h₃ h₄
  rw [← Int.cast_add, Int.cast_lt, ← not_le] at h₃
  rw [← Int.cast_one, ← Int.cast_add, ← Int.cast_add, Int.cast_lt, Int.lt_add_one_iff] at h₄
  exact h₃ h₄
```

**Comment by int-y1** [comment]
> Why not use `Real.IsConjugateExponent` all the way through? It seems to make things easier.

I made this change and the proof became shorter. I also slightly golfed your proof of `no_collision`.

I don't think `rayleigh_xxx'` is necessary anymore, so I removed these extra theorems.

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 6]
```diff
@@ -0,0 +1,191 @@
...
+def beattySet' (r : ℝ) : Set ℤ :=
+  { beattySequence' r k | k }
+
+/-- Define the positive Beatty set for `r ∈ ℝ` to be `B⁺_r := {⌊r⌋, ⌊2r⌋, ⌊3r⌋, ...}`. -/
+def beattySetPos (r : ℝ) : Set ℤ :=
+  { beattySequence r k | k > 0 }
+
+/-- Define another positive Beatty set for `r ∈ ℝ` to be `B⁺'_r := {⌈r⌉-1, ⌈2r⌉-1, ⌈3r⌉-1, ...}`. -/
+def beattySetPos' (r : ℝ) : Set ℤ :=
+  { beattySequence' r k | k > 0 }
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Rayleigh.lean:67]: This is a lot of definitions for little use. Could you try inlining them (at least the `Set` versions)? I doubt this will readability too much.

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 7]
```diff
@@ -0,0 +1,191 @@
...
+    · simp [Set.compl, h₁, h₂]
+    · have ⟨k, h₁₁, h₁₂⟩ := (Beatty.hit_or_miss hrs.pos).resolve_left h₁
+      have ⟨m, h₂₁, h₂₂⟩ := (Beatty.hit_or_miss' hrs.symm.pos).resolve_left h₂
+      exact (Beatty.no_anticollision hrs ⟨j, k, m, h₁₁, h₁₂, h₂₁, h₂₂⟩).elim
+
+/-- Generalization of Rayleigh's theorem on Beatty sequences. Let `r` be a real number greater
+than 1, and `1/r + 1/s = 1`. Then every positive integer is in exactly one of `B⁺_r` or `B⁺'_s`. -/
+theorem rayleigh_pos {r s : ℝ} (hrs : r.IsConjugateExponent s) :
+    ∀ {j : ℤ}, j > 0 →
+      (j ∈ beattySetPos r ∧ j ∉ beattySetPos' s) ∨ (j ∉ beattySetPos r ∧ j ∈ beattySetPos' s) := by
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Rayleigh.lean:155]:
```suggestion
    ∀ {j : ℤ}, 0 < j→ j ∈ beattySetPos r ∆ beattySetPos' s := by
```
or maybe even
```suggestion
   beattySetPos r ∆ beattySetPos' s = {n | 0 < n} := by
```

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 8]
```diff
@@ -0,0 +1,191 @@
...
+  · by_cases h₂ : j ∈ beattySet' s
+    · simp [Set.compl, h₁, h₂]
+    · have ⟨k, h₁₁, h₁₂⟩ := (Beatty.hit_or_miss hrs.pos).resolve_left h₁
+      have ⟨m, h₂₁, h₂₂⟩ := (Beatty.hit_or_miss' hrs.symm.pos).resolve_left h₂
+      exact (Beatty.no_anticollision hrs ⟨j, k, m, h₁₁, h₁₂, h₂₁, h₂₂⟩).elim
+
+/-- Generalization of Rayleigh's theorem on Beatty sequences. Let `r` be a real number greater
+than 1, and `1/r + 1/s = 1`. Then every positive integer is in exactly one of `B⁺_r` or `B⁺'_s`. -/
+theorem rayleigh_pos {r s : ℝ} (hrs : r.IsConjugateExponent s) :
+    ∀ {j : ℤ}, j > 0 →
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Rayleigh.lean:154]: Is there not a version of this theorem for `beattySet`/`beattySet'`?

File: Mathlib/NumberTheory/Rayleigh.lean (hunk 7 above)
Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Done. I used the second statement because it's stronger.

File: Mathlib/NumberTheory/Rayleigh.lean (hunk 8 above)
Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Yes, `rayleigh_compl` is a version for all integers. I included `rayleigh_pos` because it wasn't that easy to restrict `rayleigh_compl` to the positive integers.

File: Mathlib/NumberTheory/Rayleigh.lean (hunk 6 above)
Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Done.

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 9]
```diff
@@ -0,0 +1,190 @@
...
+    constructor
+    · rwa [add_sub_cancel]
+    exact sub_nonneg.1 (Int.sub_floor_div_mul_nonneg (j + 1 : ℝ) h)
+
+end Beatty
+
+/-- Generalization of Rayleigh's theorem on Beatty sequences. Let `r` be a real number greater
+than 1, and `1/r + 1/s = 1`. Then the complement of `B_r` is `B'_s`. -/
+theorem rayleigh_compl {r s : ℝ} (hrs : r.IsConjugateExponent s) :
+    {beattySequence r k | k}ᶜ = {beattySequence' s k | k} := by
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Rayleigh.lean:128]:
```suggestion
theorem compl_beattySequence {r s : ℝ} (hrs : r.IsConjugateExponent s) :
    {beattySequence r k | k}ᶜ = {beattySequence' s k | k} := by
```
and you should also have `compl_beattySequence'`.

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 10]
```diff
@@ -0,0 +1,190 @@
...
+  exact or_not
+
+/-- Rayleigh's theorem on Beatty sequences. Let `r` be an irrational number greater than 1, and
+`1/r + 1/s = 1`. Then `B⁺_r` and `B⁺_s` partition the positive integers. -/
+theorem rayleigh_irr_pos {r s : ℝ} (hrs : r.IsConjugateExponent s) (hr : Irrational r) :
+    {beattySequence r k | k > 0} ∆ {beattySequence s k | k > 0} = {n | 0 < n} := by
+  apply Set.eq_of_subset_of_subset
+  · intro j hj
+    rcases Set.mem_of_mem_of_subset hj Set.symmDiff_subset_union with
+      ⟨k, hk, hjk⟩ | ⟨k, hk, hjk⟩ <;>
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Rayleigh.lean:176]:
```suggestion
  · rintro _ ⟨k, ⟨hk, -⟩, rfl⟩ | ⟨k, ⟨hk, -⟩, rfl⟩ <;>
```

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 11]
```diff
@@ -0,0 +1,190 @@
...
+    have := pos_of_mul_pos_left hj hs
+    rwa [Int.cast_pos] at this
+  rw [Set.mem_symmDiff, hb₁ _ hrs.nonneg, hb₂ _ hrs.symm.nonneg, ← rayleigh_compl hrs,
+    Set.not_mem_compl_iff, Set.mem_compl_iff, and_self, and_self]
+  exact or_not
+
+/-- Rayleigh's theorem on Beatty sequences. Let `r` be an irrational number greater than 1, and
+`1/r + 1/s = 1`. Then `B⁺_r` and `B⁺_s` partition the positive integers. -/
+theorem rayleigh_irr_pos {r s : ℝ} (hrs : r.IsConjugateExponent s) (hr : Irrational r) :
+    {beattySequence r k | k > 0} ∆ {beattySequence s k | k > 0} = {n | 0 < n} := by
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Rayleigh.lean:172]: This proof sounds too complicated given that you should just say `Irrational r → beattySequence' r = beattySequence r` (which could be a simp lemma, btw) and `r.IsConjugateExponent s → (Irrational r ↔ Irrational s)`.

File: Mathlib/NumberTheory/Rayleigh.lean (hunk 9 above)
Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Done. Also, I added a `'` version for both `compl_beattySequence` and `rayleigh_pos`.

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 12]
```diff
@@ -162,29 +165,25 @@ theorem rayleigh_pos {r s : ℝ} (hrs : r.IsConjugateExponent s) :
...
     Set.not_mem_compl_iff, Set.mem_compl_iff, and_self, and_self]
   exact or_not
 
+theorem rayleigh_pos' {r s : ℝ} (hrs : r.IsConjugateExponent s) :
+    {beattySequence' r k | k > 0} ∆ {beattySequence s k | k > 0} = {n | 0 < n} := by
+  rw [symmDiff_comm, rayleigh_pos hrs.symm]
+
+/-- Let `r` be an irrational number. Then `B⁺_r` and `B⁺'_r` are equal. -/
+theorem irr_beattySequence_pos_eq {r : ℝ} (hr : Irrational r) :
+    {beattySequence r k | k > 0} = {beattySequence' r k | k > 0} := by
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Rayleigh.lean:178]: I would state it the other way, from the assumption that `beattySequence` is simpler than `beattySequence'`
```suggestion
    {beattySequence' r k | k > 0} = {beattySequence r k | k > 0} := by
```

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 13]
```diff
@@ -162,29 +165,25 @@ theorem rayleigh_pos {r s : ℝ} (hrs : r.IsConjugateExponent s) :
...
+  rw [Set.mem_symmDiff, hb₁ _ hrs.nonneg, hb₂ _ hrs.symm.nonneg, ← compl_beattySequence hrs,
     Set.not_mem_compl_iff, Set.mem_compl_iff, and_self, and_self]
   exact or_not
 
+theorem rayleigh_pos' {r s : ℝ} (hrs : r.IsConjugateExponent s) :
+    {beattySequence' r k | k > 0} ∆ {beattySequence s k | k > 0} = {n | 0 < n} := by
+  rw [symmDiff_comm, rayleigh_pos hrs.symm]
+
+/-- Let `r` be an irrational number. Then `B⁺_r` and `B⁺'_r` are equal. -/
+theorem irr_beattySequence_pos_eq {r : ℝ} (hr : Irrational r) :
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Rayleigh.lean:177]:
```suggestion
theorem Irrational.beattySequence_pos_eq {r : ℝ} (hr : Irrational r) :
```

File: Mathlib/NumberTheory/Rayleigh.lean (hunk 10 above)
Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Good golfing technique. I added this to `rayleigh_pos`.

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 14]
```diff
@@ -162,29 +165,25 @@ theorem rayleigh_pos {r s : ℝ} (hrs : r.IsConjugateExponent s) :
...
+    {beattySequence r k | k > 0} = {beattySequence' r k | k > 0} := by
+  dsimp only [beattySequence, beattySequence']
+  congr! 4; rename_i k; rw [and_congr_right_iff]; intro hk; congr!
+  symm; rw [sub_eq_iff_eq_add, Int.ceil_eq_iff, Int.cast_add, Int.cast_one, add_sub_cancel]
+  refine ⟨lt_of_le_of_ne (Int.floor_le _) fun h ↦ ?_, (Int.lt_floor_add_one _).le⟩
+  exact Irrational.ne_int (hr.int_mul hk.ne') ⌊k * r⌋ h.symm
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Rayleigh.lean:183]:
```suggestion
  exact (hr.int_mul hk.ne').ne_int ⌊k * r⌋ h.symm
```

File: Mathlib/NumberTheory/Rayleigh.lean (hunk 11 above)
Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean:188]: Proof of `rayleigh_irr_pos` has been shorted to 1 line.

File: Mathlib/NumberTheory/Rayleigh.lean (hunk 12 above)
Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Done. `beattySequence` is simpler.

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 15]
```diff
@@ -0,0 +1,189 @@
...
+  dsimp only [beattySequence, beattySequence']
+  congr! 4; rename_i k; rw [and_congr_right_iff]; intro hk; congr!
+  rw [sub_eq_iff_eq_add, Int.ceil_eq_iff, Int.cast_add, Int.cast_one, add_sub_cancel]
+  refine ⟨lt_of_le_of_ne (Int.floor_le _) fun h ↦ ?_, (Int.lt_floor_add_one _).le⟩
+  exact (hr.int_mul hk.ne').ne_int ⌊k * r⌋ h.symm
+
+/-- Rayleigh's theorem on Beatty sequences. Let `r` be an irrational number greater than 1, and
+`1/r + 1/s = 1`. Then `B⁺_r` and `B⁺_s` partition the positive integers. -/
+theorem rayleigh_irr_pos {r s : ℝ} (hrs : r.IsConjugateExponent s) (hr : Irrational r) :
+    {beattySequence r k | k > 0} ∆ {beattySequence s k | k > 0} = {n | 0 < n} := by
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Rayleigh.lean:188]: This is still a pretty poor name. What about 
```suggestion
theorem Irrational.beattySequence'_symmDiff_beattySequence_pos {r s : ℝ}
    (hrs : r.IsConjugateExponent s) (hr : Irrational r) :
    {beattySequence r k | k > 0} ∆ {beattySequence s k | k > 0} = {n | 0 < n} := by
```

**Review by YaelDillies — COMMENTED** [review]
Can you ensure that every statement is available both under `name` for the "all of `Int`" version and `name_pos` for the `> 0` version?

File: Mathlib/NumberTheory/Rayleigh.lean (hunk 15 above)
Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Done. I renamed `rayleigh_pos`, `rayleigh_pos'`, and `rayleigh_irr_pos`.

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 16]
```diff
@@ -0,0 +1,190 @@
...
+Authors: Jason Yuen
+-/
+import Mathlib.Data.Real.ConjugateExponents
+import Mathlib.Data.Real.Irrational
+
+/-!
+# Rayleigh's theorem on Beatty sequences
+
+This file proves Rayleigh's theorem on Beatty sequences. We start by proving `rayleigh_compl`, which
+is a generalization of Rayleigh's theorem, and eventually prove `rayleigh_irr_pos`, which is
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Rayleigh.lean:13]: Outdated lemma name

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 17]
```diff
@@ -0,0 +1,190 @@
...
+noncomputable def beattySequence' (r : ℝ) : ℤ → ℤ :=
+  fun k ↦ ⌈k * r⌉ - 1
+
+namespace Beatty
+
+variable {r s : ℝ} (hrs : r.IsConjugateExponent s) {j k : ℤ}
+
+/-- Let `r > 1` and `1/r + 1/s = 1`. Then `B_r` and `B'_s` are disjoint (i.e. no collision exists).
+-/
+theorem no_collision : Disjoint {beattySequence r k | k} {beattySequence' s k | k} := by
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Rayleigh.lean:63]: I would advise to make this lemma and the next two private.

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 18]
```diff
@@ -0,0 +1,190 @@
...
+    Set.not_mem_compl_iff, Set.mem_compl_iff, and_self, and_self]
+  exact or_not
+
+theorem beattySequence'_symmDiff_beattySequence_pos {r s : ℝ} (hrs : r.IsConjugateExponent s) :
+    {beattySequence' r k | k > 0} ∆ {beattySequence s k | k > 0} = {n | 0 < n} := by
+  rw [symmDiff_comm, beattySequence_symmDiff_beattySequence'_pos hrs.symm]
+
+/-- Let `r` be an irrational number. Then `B⁺_r` and `B⁺'_r` are equal. -/
+theorem Irrational.beattySequence'_pos_eq {r : ℝ} (hr : Irrational r) :
+    {beattySequence' r k | k > 0} = {beattySequence r k | k > 0} := by
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Rayleigh.lean:178]: You should prove `beattySequence' r = beattySequence r` instead.

File: Mathlib/NumberTheory/Rayleigh.lean (hunk 16 above)
Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Fixed.

File: Mathlib/NumberTheory/Rayleigh.lean (hunk 17 above)
Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Done. The helper theorems are all private now.

File: Mathlib/NumberTheory/Rayleigh.lean (hunk 18 above)
Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: I'm not sure how to express this. I'm having trouble with k=0 because `beattySeq' r 0 = -1` and `beattySeq r 0 = 0`.

Comment (YaelDillies) [reply Mathlib/NumberTheory/Rayleigh.lean]: Ah of course. Then it's probably fine like that.

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 19]
```diff
@@ -0,0 +1,189 @@
...
+  have h₄ := add_lt_add_of_le_of_lt h₁₂ h₂₂
+  simp_rw [← inv_mul_eq_div, ← right_distrib, inv_eq_one_div, hrs.inv_add_inv_conj,
+    one_mul] at h₃ h₄
+  rw [← Int.cast_one, ← add_assoc, add_lt_add_iff_right, add_right_comm] at h₄
+  simp_rw [← Int.cast_add, Int.cast_lt, Int.lt_add_one_iff] at h₃ h₄
+  exact (lt_self_iff_false _).1 (lt_of_le_of_lt' h₄ h₃)
+
+/-- Let `0 < r ∈ ℝ` and `j ∈ ℤ`. Then either `j ∈ B_r` or `B_r` jumps over `j`. -/
+private theorem hit_or_miss (h : r > 0) :
+    j ∈ {beattySeq r k | k} ∨ (∃ k : ℤ, k * r < j ∧ j + 1 ≤ (k + 1) * r) := by
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Rayleigh.lean:95]:
```suggestion
    j ∈ {beattySeq r k | k} ∨ ∃ k : ℤ, k * r < j ∧ j + 1 ≤ (k + 1) * r := by
```

Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Done. I removed all redundant parentheses.

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 20]
```diff
@@ -0,0 +1,189 @@
...
+  rw [beattySeq, Int.floor_eq_iff, ← div_le_iff hrs.pos, ← lt_div_iff hrs.pos] at h₁
+  rw [beattySeq', sub_eq_iff_eq_add, Int.ceil_eq_iff, Int.cast_add, Int.cast_one,
+    add_sub_cancel, ← div_lt_iff hrs.symm.pos, ← le_div_iff hrs.symm.pos] at h₂
+  have h₃ := add_lt_add_of_le_of_lt h₁.1 h₂.1
+  have h₄ := add_lt_add_of_lt_of_le h₁.2 h₂.2
+  simp_rw [← inv_mul_eq_div, ← right_distrib, inv_eq_one_div, hrs.inv_add_inv_conj,
+    one_mul] at h₃ h₄
+  rw [← Int.cast_one] at h₄
+  simp_rw [← Int.cast_add, Int.cast_lt, Int.lt_add_one_iff] at h₃ h₄
+  exact (lt_self_iff_false _).1 (lt_of_le_of_lt' h₄ h₃)
```
[the remark this answers is not in the document]
Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Done.

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 21]
```diff
@@ -0,0 +1,187 @@
...
+
+/-- Let `r > 1` and `1/r + 1/s = 1`. Suppose there is an integer `j` where `B_r` and `B'_s` both
+jump over `j` (i.e. an anti-collision). Then this leads to a contradiction. -/
+private theorem no_anticollision :
+    ¬∃ j k m : ℤ, k * r < j ∧ j + 1 ≤ (k + 1) * r ∧ m * s ≤ j ∧ j + 1 < (m + 1) * s := by
+  intro ⟨j, k, m, h₁₁, h₁₂, h₂₁, h₂₂⟩
+  replace h₁₁ := (lt_div_iff hrs.pos).2 h₁₁
+  replace h₁₂ := (div_le_iff hrs.pos).2 h₁₂
+  replace h₂₁ := (le_div_iff hrs.symm.pos).2 h₂₁
+  replace h₂₂ := (div_lt_iff hrs.symm.pos).2 h₂₂
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Rayleigh.lean:83]:
```suggestion
  simp only, [←div_le_iff, ←le_div_iff, ←div_lt_iff, ←lt_div_iff, hrs.pos, hrs.symm.pos] at h₁₁ h₁₂ h₂₁ h₂₂
```

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 22]
```diff
@@ -0,0 +1,187 @@
...
+
+end Beatty
+
+/-- Generalization of Rayleigh's theorem on Beatty sequences. Let `r` be a real number greater
+than 1, and `1/r + 1/s = 1`. Then the complement of `B_r` is `B'_s`. -/
+theorem compl_beattySeq {r s : ℝ} (hrs : r.IsConjugateExponent s) :
+    {beattySeq r k | k}ᶜ = {beattySeq' s k | k} := by
+  ext j
+  by_cases h₁ : j ∈ {beattySeq r k | k}
+  · by_cases h₂ : j ∈ {beattySeq' s k | k}
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Rayleigh.lean:128]:
```suggestion
  by_cases h₁ : j ∈ {beattySeq r k | k} <;> by_cases h₂ : j ∈ {beattySeq' s k | k}
```

Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Done.

File: Mathlib/NumberTheory/Rayleigh.lean (hunk 21 above)
Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Done.
(I managed to golf this away in "More golf v2")

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 23]
```diff
@@ -0,0 +1,176 @@
...
+      exact one_le_mul_of_one_le_of_one_le (by norm_cast) hrs.one_lt.le
+    · rw [Set.mem_setOf_eq, ← hjk, beattySeq', ← Int.ceil_sub_one, Int.ceil_pos, sub_pos]
+      exact one_lt_mul_of_le_of_lt (by norm_cast) hrs.symm.one_lt
+  intro j (hj : 0 < j)
+  have hb₁ : ∀ s ≥ 0, j ∈ {beattySeq s k | k > 0} ↔ j ∈ {beattySeq s k | k} := by
+    intro _ hs
+    refine ⟨fun ⟨k, _, hk⟩ ↦ ⟨k, hk⟩, fun ⟨k, hk⟩ ↦ ⟨k, ?_, hk⟩⟩
+    rw [← hk, beattySeq, Int.floor_pos] at hj
+    have := pos_of_mul_pos_left (lt_of_lt_of_le zero_lt_one hj) hs
+    rwa [Int.cast_pos] at this
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Rayleigh.lean:146]:
```suggestion
    exact_mod_cast pos_of_mul_pos_left (zero_lt_one.trans_le hj) hs
```

File: Mathlib/NumberTheory/Rayleigh.lean [hunk 24]
```diff
@@ -0,0 +1,176 @@
...
+  have hb₂ : ∀ s ≥ 0, j ∈ {beattySeq' s k | k > 0} ↔ j ∈ {beattySeq' s k | k} := by
+    intro _ hs
+    refine ⟨fun ⟨k, _, hk⟩ ↦ ⟨k, hk⟩, fun ⟨k, hk⟩ ↦ ⟨k, ?_, hk⟩⟩
+    rw [← hk, beattySeq', lt_sub_iff_add_lt, zero_add] at hj
+    replace hj := Int.ceil_pos.1 (lt_trans zero_lt_one hj)
+    have := pos_of_mul_pos_left hj hs
+    rwa [Int.cast_pos] at this
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/Rayleigh.lean:153]:
```suggestion
    exact_mod_cast pos_of_mul_pos_left hj hs
```

File: Mathlib/NumberTheory/Rayleigh.lean (hunk 23 above)
Comment (int-y1) [reply Mathlib/NumberTheory/Rayleigh.lean]: Done. Today I learned about `exact_mod_cast`.

**Review by YaelDillies — APPROVED** [review]
I think there's still a few golfing opportunities, but I'm mostly happy with it now!

maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
